US04178319
524 grams of bis-(hydroxypropyl) adipate are prepared from adipic acid and propylene oxide by following the method described for bis-(hydroxypropyl) azelate in Example 1(a). Hydroxyphosphate with acid equivalent weight of 315 is prepared from this dihydroxy ester as described in Example 1(a).

reactant | adipic acid | C(CCCCC(=O)O)(=O)O | C6H10O4
reactant | propylene oxide | C1C(C)O1 | C3H6O
reactant | bis-(hydroxypropyl) azelate | C(CCCCCCCC(=O)OCCCO)(=O)OCCCO | C15H28O6
product | bis-(hydroxypropyl) adipate | 524 grams | C(CCCCC(=O)OCCCO)(=O)OCCCO | C12H22O6
